Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / aspirin / 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Unable to ambulate
Pre-syncope
Anxiety
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old female who complains of Anxiety. 
BIBA from ___
building. Pt arrives teary eyed and anxious,and told she has 
tumors in her
thyroid at an endocrinologist appt. Blood sugar 136 ___ PMH 
___
syndrome, toxic multinodular goiters, P/W anxiety. Patient was 
scheduled to
have an endocrinology appointment today, however felt like she 
was going to
pass out, was in extremis, and was endorsing anxiety. For the 
past 6 months
has had skin/nail changes, hair falling out, rapid weight 
gain/weight loss,
increased bowel movements, periods of feeling like she was 
having seizures.
There is a strong family history of thyroid cancer.
 
Past Medical History:
___ syndrome 
toxic multinodular goiter 
? bipolar disorder 
s/p 5 spinal fusion surgeries 
s/p 2 hip replacements 
 
Social History:
___
Family History:
Patient reports strong family history of thyroid problems and 
cancers. Mother had thyroid cancer and a partial thyroidectomy. 
Grandmother had hypothyroidism. Brother has MEN ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.1PO,110 / 74R Lying,77,20,98RA
GENERAL: Alert and interactive. In no acute distress. 
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: supple 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
MSK: no ___ 
SKIN: Warm.  No rash.
NEUROLOGIC: AAOX3. moving all extremities. 
PSYCH: anxious, somewhat pressured speech, fixating on
metabolic/chemical health issues, occasionally tearful, 
otherwise
cooperative 

DISCHARGE PHYSICAL EXAM:
VITALS: T 98|HR 62|RR 16| SpO2 97% RA
GENERAL: Alert and interactive. In no acute distress. 
EYES: NCAT. EOMI. Sclera anicteric and without injection. 
ENT: supple 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
MSK: no ___ 
SKIN: Warm.  No rash.
NEUROLOGIC: AAOX3. moving all extremities. 
PSYCH: anxious, somewhat pressured speech, fixating on
metabolic/chemical health issues, occasionally tearful, 
otherwise
cooperative 
 
Pertinent Results:
ADMISSION LABS:
==============
            10.7  
14.3  >-----< 287 
           34.0 

130  97    7      AGap=11 
------------< 138 
4.4  22  0.6 

TSH:0.65, T4: 6.2, T3: 88
UCG: Negative
UA clean 

RELEVANT INPATIENT LABS:
======================
CBC w/ diff:
___ 12:05PM BLOOD WBC-14.3* RBC-4.15 Hgb-10.7* Hct-34.0 
MCV-82 MCH-25.8* MCHC-31.5* RDW-15.9* RDWSD-46.3 Plt ___
___ 12:05PM BLOOD Neuts-83.8* Lymphs-10.0* Monos-5.7 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-11.97* AbsLymp-1.43 
AbsMono-0.82* AbsEos-0.02* AbsBaso-0.02

BMP:
___ 06:05AM BLOOD Glucose-98 UreaN-12 Creat-0.7 Na-143 
K-4.9 Cl-109* HCO3-23 AnGap-11

CK:
___ 12:05PM BLOOD CK(CPK)-90

A1c:
___ 06:20AM BLOOD %HbA1c-5.3 eAG-105
___ 06:05AM BLOOD WBC-10.3* RBC-4.29 Hgb-11.0* Hct-36.0 
MCV-84 MCH-25.6* MCHC-30.6* RDW-16.4* RDWSD-49.3* Plt ___

EKG:
=====
___ 11:54:56
Sinus rhythm
Inferolateral infarct, old

___ 22:17:58
Sinus bradycardia sinus arrhythmia 
Cannot rule out Inferior MI - indeterminate age 
Otherwise normal ECG 
When compared with ECG of ___ 11:54, No significant 
change was found
 
Brief Hospital Course:
PATIENT SUMMARY
===============
___ year old woman with a history of thyroid nodule and anxiety 
admitted to hospital medicine after c/f syncopal event outside 
of ED with difficulty ambulating diagnosed with neurologic 
symptom disorder in setting of multiple stressors.

ACUTE ISSUES
============
#c/f syncope
#Difficulty ambulating
#Conversion Disorder/Neurologic Symptom disorder
Patient initially presented with c/f syncope outside of ED. 
Initially history resembled orthostasis, however orthostatic 
vital signs were unremarkable. Interview with patient revealed 
extensive history of anxiety as well as multiple recent 
stressors including thyroid nodule of unknown etiology 
(scheduled for FNA), recent death of pet cat, and multiple 
interpersonal stressors. Psychiatric evaluation concluded most 
likely diagnosis conversion disorder/neurologic symptom disorder 
manifesting as presyncope and difficulty ambulating. She was 
seen by ___ multiple times who recommended a rolling walker. She 
was able to ambulate with the walker at time of discharge.

#Anxiety
Patient with history of anxiety in the past. Expressed extensive 
anxiety surrounding eating food, and concern about thyroid 
function and diabetes. TSH and A1c wnl during admission. 
Reassurance and explanation of medical tests provided multiple 
times during admission, as well as TID Ativan and gabapentin TID 
per psychiatry recommendations. Anxiety in general improved at 
time of discharge and she will follow up with her regular 
therapist.

#MSK chest pain
Patient reported left sided chest pain exagerated by movement of 
left extremity during admission. EKG obtained unremarkable with 
no evidence of ischemia. Reassurance was provided as well as PO 
tylenol resulting in improvement of pain. 

#Leukocytosis
Patient with recent dental infection on last day of azithromycin 
on admission combined with severe psychological stress believed 
to be most likely cause of elevated WBC. Downtrended during 
admission. 

#Hyponateremia
Sodium 130 on admission, though normalized immediately the next 
day. Remained normal throughout rest of admission.  

CHRONIC ISSUES
==============
#Multiple thyroid nodules
Known since ___, s/p insufficient FNA at ___. Outpatient f/u 
arranged. 

TRANSITIONAL ISSUES
===================
[ ] f/u with thyroid clinic outpatient for repeat FNA of thyroid 
nodule and to establish care with endocrinology, an appointment 
she missed due to this admission
[ ] she will need close follow up with PCP and her therapist to 
continue working on anxiety, which we believe is contributing to 
her difficulty ambulating
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO Q8H:PRN anxiety 
2. Soma (carisoprodol) 250 mg oral BID:PRN 
3. Azithromycin 250 mg PO Q24H 

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID  
2.  Lidocaine 5% Patch 1 PTCH TD QAM torso/shoulder pain  
3.  LORazepam 1 mg PO Q8H:PRN anxiety  
4.  Soma (carisoprodol) 250 mg oral BID:PRN  
5.___
ICD Diagnosis Code ___ 
___ 
Prognosis: good
Time: 12mo

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Conversion disorder
Neurologic symptom disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you were having 
trouble standing and walking on your own. You were also found to 
have a slightly decreased sodium level. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- We performed a number of lab tests, including a measure of 
thyroid function, diabetes status, urine analysis, electrolyte 
levels, and kidney function. These were all normal.
- We performed a test called orthostatics where we tested your 
body's blood pressure response to different positions including 
when you are lying, sitting, and standing. This test was normal.
- We obtained an electrocardiogram to assess your heart health, 
which was normal.
- We had consultants with the social work, nutrition, and 
psychiatry services assess you and formulate your care plan 
together.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___